US08735425B2
(26a) 6-[3-(2-ethoxy-phenyl)-ureido]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
A tetrahydrofuran (10 mL) solution of 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline (981 mg) and 2-ethoxyphenyl isocyanate (0.9 mL) was stirred at room temperature for 4 hours and then concentrated. The residue was purified by chromatography (hexane:ethyl acetate=5:1→1:1 and then methylene chloride:ethyl acetate=1:0→1:1) to obtain the title compound (1.62 g, quantitative yield) as a pale yellow solid.

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline | 981 mg | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | 2-ethoxyphenyl isocyanate | 0.9 mL | C(C)OC1=C(C=CC=C1)N=C=O | C9H9NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-[3-(2-ethoxy-phenyl)-ureido]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.62 g, quantitative yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)NC1=C(C=CC=C1)OCC | C23H29N3O4
